US07091382B2
3-[3-(4-Fluorophenyl)-1-(1-Methylethyl)-1H-Indol-2-yl]-2-Propenal
To a solution of N-methylformanilide (30 g), butyl vinyl ether (22.2 g) in 15 ml of acetonitrile under stirring at 5° C., a solution of bis-trichloromethylcarbonate (26.1 g) in 70 ml of acetonitrile is added dropwise in 80 min. The reaction mixture is kept under stirring at 5° C. overnight, then phosphorus oxychloride (31.4 g) is added dropwise in 30 minutes, then the reaction mixture is stirred at 5° C. for 15 minutes. 3-[3-(4-Fluorophenyl)-1-(1-Methylethyl)-1H-Indole (35.8 g) and acetonitrile (25 ml) are added. The mixture is warmed to 80° C. and kept under stirring for about 24 hours. The reaction mixture is worked up as described in Example 3b to give the product (69% yield).

reactant | N-methylformanilide | 30 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | butyl vinyl ether | 22.2 g | C(=C)OCCCC | C6H12O
reactant | bis-trichloromethylcarbonate | 26.1 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | phosphorus oxychloride | 31.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(4-Fluorophenyl)-1-(1-Methylethyl)-1H-Indole | 35.8 g | FC1=CC=C(C=C1)C1=CN(C2=CC=CC=C12)C(C)C | C17H16FN
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-[3-(4-Fluorophenyl)-1-(1-Methylethyl)-1H-Indol-2-yl]-2-Propenal | 69% yield | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)C=CC=O | C20H18FNO
